US07470768B2
10.09 g of tetrahydro-4-(3-butenyl)-2H-pyrane-2-one of interest was prepared in the same manner as in Example 1 except that 10.01 g (100.0 mmol) of δ-valerolactone and 17.88 g (110.0 mmol) of 5-bromo-1-pentene were used instead of β-propiolactone and allyl amide described in Preparation Example 1.

reactant | δ-valerolactone | 100.0 mmol, 10.01 g | C1(CCCCO1)=O | C5H8O2
reactant | 5-bromo-1-pentene | 110.0 mmol, 17.88 g | BrCCCC=C | C5H9Br
reactant | β-propiolactone | C1(CCO1)=O | C3H4O2
reactant | allyl amide | C(C=C)[NH-]
product | tetrahydro-4-(3-butenyl)-2H-pyrane-2-one | 10.09 g | C(CC=C)C1CC(OCC1)=O | C9H14O2
